US04057647
A mixture of 32 g. of 3-(2',4'-difluoro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester, 8.7 g. of potassium iodide, 5.2 of red phosphorus and 45 ml. of 85% phosphoric acid is stirred and heated to 130° for 7 hours. It is worked up in the customary manner to give 3-(2',4'-difluoro-4-biphenylyl)butyric acid ethyl ester.

reactant | 3-(2',4'-difluoro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester | C(C)OC(CC(C)(O)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C18H18F2O3
reactant | potassium iodide | [I-].[K+]
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | 3-(2',4'-difluoro-4-biphenylyl)butyric acid ethyl ester | C(C)OC(CC(C)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C18H18F2O2
